US04578498
Gaseous hydrogen chloride was passed into a solution of 4.0 g of E-4-[2-methyl-2-(1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphth-7-yl)-vinyl]-benzoic acid in 300 ml of ethanol at the boiling point of the reaction mixture, until the solution was saturated. Thereafter, the mixture was kept at the boil for a further 4 hours, cooled, flushed with nitrogen and then evaporated down. The residue was digested with 30 ml of methanol, and the product was filtered off and dried. 3.6 g of ethyl E-4-[2-methyl-2-(1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphth-7-yl)-vinyl]-benzoate of melting point 109°-110° C. were obtained (cf. Example 1).

reactant | hydrogen chloride | Cl | ClH
reactant | E-4-[2-methyl-2-(1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphth-7-yl)-vinyl]-benzoic acid | 4.0 g | C\C(=C/C1=CC=C(C(=O)O)C=C1)\C1=C(C=C2C(CCC(C2=C1)(C)C)(C)C)C | C25H30O2
reactant | ethanol | 300 ml | C(C)O | C2H6O
product | ethyl E-4-[2-methyl-2-(1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphth-7-yl)-vinyl]-benzoate | 3.6 g | C\C(=C/C1=CC=C(C(=O)OCC)C=C1)\C1=C(C=C2C(CCC(C2=C1)(C)C)(C)C)C | C27H34O2
